US07087605B2
2-Bicyclo[2.2.1]hept-2-yl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]acetamide
In analogy to the procedure for Example 36A, 150 mg (0.67 mmol) 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one, 130 mg (0.74 mmol) bicyclo[2.2.1]hept-2-ylacetyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one | 0.67 mmol, 150 mg | NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C11H18N4O
reactant | bicyclo[2.2.1]hept-2-ylacetyl chloride | 0.74 mmol, 130 mg | C12C(CC(CC1)C2)CC(=O)Cl | C9H13ClO
product | 2-Bicyclo[2.2.1]hept-2-yl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]acetamide | C12C(CC(CC1)C2)CC(=O)NC(CC)C=2C(NC(=NN2)C2CCCC2)=O | C20H30N4O2
